Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year-old right-handed man who presents status post a fall 
down 13 stairs. Fall was unwitnessed. Per pre-hospital report 
patient was initially awake, confused and not following 
commands. Trauma survey noted only a 12th rib fracture on the 
left. Vital signs were normal, tox screen was negative, and his 
EKG was notable for a right bundle branch block. He was admitted 
for monitoring. 
 
Past Medical History:
Gout
___ ___
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
 

T=97.3
BP= 131-160/72-69 
HR= 63-66
RR= 20
O2= 99-100% on RA
___ 98

GENERAL: Pleasant
HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No
scleral icterus.  MMM. OP clear.  Neck Supple, No nuchal 
rigidity

CARDIAC: Irregular rhythm, normal rate. Normal S1, S2. No 
murmurs
appreciated.  
LUNGS: CTAB with diminished air movement at the bases.
ABDOMEN: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
EXTREMITIES: No edema or calf pain, 1+ dorsalis pedis/posterior
tibial pulses.  Left ___ digit with apparent old contracture.
SKIN: No rashes/lesions, ecchymoses. 

Neurologic: 
-Mental Status: Alert, oriented to hospital, date and year.  
Able
to relate history but speech intermittently slow.  Able to name
the days of the week forward and backward without difficulty. 
His
language is fluent with intact repetition and comprehension,
however his attention did appear to wax and wane at times, as he
would stare for several seconds before answering questions.  
There were no errors of speech noticed.  The patient was able to
name both high and low frequency objects and read without
difficulty.  Speech was notable for a ___ accent and was
mildly dysarthric. Able to follow both midline and appendicular
commands. Pt. was able to register 3 objects although this was
initially limited by his hearing.  He could not recall any items
at 5 minutes.  There was no evidence of apraxia or neglect. 
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 2.5 to 2 mm and brisk.  VFF to confrontation. 
Attempted
funduscopic exam was unsuccessful due to inability to have the
patient focus.
III, IV, VI: Significantly restricted upgaze, no evidence of
nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: Diminished blink. No facial droop, facial musculature
symmetric. 
VIII: Diminished hearing bilaterally, left > right.
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk; no evidence of increased resting tone.
Parietal drift on R>L.  No adventitious movements, such as
tremor, noted. No asterixis noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5 
 
-Sensory: No deficits to light touch, pinprick, cold sensation 
or
vibratory sense; normal proprioception throughout. No extinction
to DSS. 
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  3  3    3    3   4 (4 beats of clonus)
R  3  3    3    3   4 (2 beats of clonus)
Plantar response was flexor bilaterally. 
Positive glabellar and possible grasp reflex present.
 
-Coordination: No intention tremor, no slight dysdiadochokinesia
noted bilaterally. Slight dysmetria on FNF and HKS bilaterally. 
 

 
Pertinent Results:
___ 07:36AM   GLUCOSE-100 UREA N-17 CREAT-0.8 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-109* TOTAL CO2-23 ANION GAP-13
___ 10:38PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:38PM   WBC-7.6 RBC-4.04* HGB-13.0* HCT-39.2* MCV-97 
MCH-32.1* MCHC-33.1 RDW-12.8
___ 10:38PM   PLT COUNT-153
___ 10:38PM   ___ PTT-27.0 ___

CT Head ___
IMPRESSION: 
1. No intracranial hemorrhage. No midline shift. 
  
2. Bilateral soft tissue densities within the external auditory 
canals likely cerumen, occlusive on the left. Recommend direct 
visualization. 

CT c-spine ___
IMPRESSION: No fracture of the cervical spine. 

CT Chest/Abdomen/Pelvis ___
IMPRESSION: 
  
1. Fracture of the left twelfth rib posteriorly. No splenic 
laceration. No 
pneumothorax. 
  
2. No injury to the solid organs. 
  
3. Cholelithiasis. 
  
4. Bilateral fat-containing inguinal hernias. 
  
5. Mildly enlarged prostate. 
  
  

  

  

 
Brief Hospital Course:
He was admitted to the Trauma service. Because of concern for 
possible Broca's aphasia a Neurology stroke consult was 
requested. It was recommended an MR of the brain which showed no 
evidence of acute infarct seen on diffusion images;mild brain 
atrophy and moderate periventricular and subcortical changes of 
small vessel 
disease identified and no midline shift or hydrocephalus. It was 
also recommended  
that he follow-up in the Neurology clinic for further testing 
and referral to movement disorder clinic given his history of 
increased falls and high risk for future falls.

His single rib fracture was managed with Tylenol for which he 
reported provided adequate relief. he will follow up in trauma 
clinic with a chest xray.

He was evaluated by Physical and Occupational therapy and was 
recommended for home with services.

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Milk of Magnesia 800 mg/5 mL Suspension Sig: Thirty (30) ML's 
PO twice a day as needed for constipation.  
4. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO at bedtime.  
5. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation every six (6) hours as needed for shortness 
of breath or wheezing.
Disp:*1 pump* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p Fall
Left rib fracture
 
Discharge Condition:
Hemodynamically stable, toelrating a regular diet, pain 
adequately controlled.
 
Discharge Instructions:
Return to the Emergency room if you develop any fevers, chills, 
headaches, dizziness, increased falls, chest pain, shortness of 
breath, nausea, vomiting, diarrhea and/or any other symptoms 
that are concerning to you.
 
Followup Instructions:
___